US08383827B2
To a solution of N-((5-bromo-4-chloropyridin-3-yl)(cyclopropyl)methyl)-N-methylmethanesulfonamide (1.03 g, 2.9 mmol) and 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile (2.29 g, 8.7 mmol) in DMF (20 mL) was added PdCl2(dppf).CH2Cl2 (118 mg, 0.145 mmol) and 2M Na2CO3 in water (2.9 mL, 5.8 mmol), and the mixture was heated to 85° C. for 7 h. The mixture was cooled to room temperature, poured into water (100 mL), extracted with EtOAc (200 mL*3), washed with water (20 mL*3) and dried over Na2SO4. The mixture was purified by silica gel chromatography eluting with a 0-50% EtOAc-heptane gradient to give N-((4-chloro-5-(3-chloro-4-cyanophenyl)pyridin-3-yl)(cyclopropyl)methyl)-N-methylmethanesulfonamide. MS (ESI): m/z 410.1, 412.1 (M+H)+.

reactant | N-((5-bromo-4-chloropyridin-3-yl)(cyclopropyl)methyl)-N-methylmethanesulfonamide | 2.9 mmol, 1.03 g | BrC=1C(=C(C=NC1)C(N(S(=O)(=O)C)C)C1CC1)Cl | C11H14BrClN2O2S
reactant | 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 8.7 mmol, 2.29 g | ClC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H15BClNO2
reactant | CH2Cl2 | 0.145 mmol, 118 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 100 mL | O | H2O
solvent | water | 5.8 mmol, 2.9 mL | O | H2O
product | N-((4-chloro-5-(3-chloro-4-cyanophenyl)pyridin-3-yl)(cyclopropyl)methyl)-N-methylmethanesulfonamide | ClC1=C(C=NC=C1C1=CC(=C(C=C1)C#N)Cl)C(N(S(=O)(=O)C)C)C1CC1 | C18H17Cl2N3O2S
